US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), isopropylamine (119 μl, 1.38 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 ul, 318.8 mmol) in tetrahydrofurane (7.00 ml) is stirred for 20 hours at 70° C. under nitrogen atmosphere. The solvent is evaporated and to the residue is added sat. aqueous sodium hydrogencarbonate solution. The mixture is stirred for 20 minutes while a white solid precipitates. The solid is collected by filtration, washed with diethylether and dried affording N4-isopropyl-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (93 mg, 83.8%) as a white solid. mp.: >250° C. MS: m/z=404.4 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | isopropylamine | 1.38 mmol, 119 μl | C(C)(C)N | C3H9N
reactant | propylphosphonic anhydride | 318.8 mmol, 407 ul | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 7.00 ml | O1CCCC1 | C4H8O
product | N4-isopropyl-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 93 mg, 83.8% | C(C)(C)NC(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C | C21H21N7O2
